US07858643B2
To a stirred solution of 4-bromo-1H-pyrazole in DMF was added sodium hydride at room temperature. The mixture was stirred for 30 minutes, [1,3]dioxolan-2-one was added, the mixture was stirred and slowly warmed to room temperature. The reaction was monitored by TLC. After the reaction was done, EtOAc was added, washed with saturated NaHCO3, water and brine, dried with Na2SO4, filtered and concentrated. The residue was purified by silica gel, eluants EtOAc and DCM 10%, to give 2-(4-Bromo-pyrazol-1-yl)-ethanol 0.22 g, yield 34%. 1H NMR (400 MHz, chloroform-D) δ ppm 7.49 (s, 1H) 7.46 (s, 1H) 4.18-4.23 (m, 2H) 3.93-3.98 (m, 2H) 3.09 (s, 1H).

reactant | 4-bromo-1H-pyrazole | BrC=1C=NNC1 | C3H3BrN2
reactant | sodium hydride | [H-].[Na+]
reactant | [1,3]dioxolan-2-one | O1C(OCC1)=O | C3H4O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-Bromo-pyrazol-1-yl)-ethanol | 0.22 g, yield 34% | BrC=1C=NN(C1)CCO | C5H7BrN2O
